US08314250B2
To a stirred solution of (S)-2-amino-4,4-dimethyl-pentan-1-ol (2.0 g, 15.2 mmol, 1.0 equiv.) and triethylamine (1.85 g, 18.3 mmol, 1.2 equiv.) in dry tetrahydrofuran (50 mL) was added di-tert-butyl dicarbonate (3.99 g, 18.3 mmol, 1.2 equiv.) slowly at 0° C. under nitrogen. After 4 hours of stirring at room temperature, the tetrahydrofuran was distilled off under reduced pressure and the crude reaction mixture was purified by silica gel column chromatography (100-200 mesh) using a gradient of 10-25% ethyl acetate/hexanes to give ((S)-1-hydroxymethyl-3,3-dimethyl-butyl)-carbamic acid tert-butyl ester (2.8 g, 79%).

reactant | (S)-2-amino-4,4-dimethyl-pentan-1-ol | 15.2 mmol, 2.0 g, 1.0 equiv. | N[C@H](CO)CC(C)(C)C | C7H17NO
reactant | triethylamine | 18.3 mmol, 1.85 g, 1.2 equiv. | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 18.3 mmol, 3.99 g, 1.2 equiv. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | ((S)-1-hydroxymethyl-3,3-dimethyl-butyl)-carbamic acid tert-butyl ester | 2.8 g, 79% | C(C)(C)(C)OC(N[C@@H](CC(C)(C)C)CO)=O | C12H25NO3
